US07632840B2
N-[(benzyloxy)carbonyl]-O-isopropyl-L-serine (0.346 g, 1.23 mmol) was dissolved in tetrahydrofuran (5 ml) and the resulting solution was cooled to −10° C. N-methyl morpholine (0.189 g, 1.84 mmol) was added, followed by isobutylchloroformate (0.21 g, 1.48 mmol) over a period of 5 minutes. The reaction mixture was stirred for 10 minutes at −10° C. and aqueous ammonia (approximately 500 μl) was added in one portion and the reaction mixture was allowed to warm to room temperature. The resulting suspension was concentrated and extracted with EtOAc (2×20 ml). The combined extracts were washed with water (5 ml), 10% w/v aqueous solution of potassium hydrogensulfate, saturated aqueous sodium bicarbonate (5 ml) and water (5 ml). The organics were dried over magnesium sulfate filtered and concentrated to give benzyl [(1S)-2-amino-1-(isopropoxymethyl)-2-oxoethyl]carbamate as a white solid, (0.340 g, 100%); 1H NMR Spectrum: (CDCl3) 1.15 (m, 6H), 3.66 (m, 1H), 3.86 (m, 2H), 4.28 (m, 1H), 5.13 (s, 2H), 5.43 (br s, 1H), 5.72 (br s, 1H), 6.54 (br s, 1H), 7.35 (m, 5H).

reactant | N-[(benzyloxy)carbonyl]-O-isopropyl-L-serine | 1.23 mmol, 0.346 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](COC(C)C)C(=O)O | C14H19NO5
reactant | N-methyl morpholine | 1.84 mmol, 0.189 g | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 1.48 mmol, 0.21 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | approximately 500 μl | N | H3N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | benzyl [(1S)-2-amino-1-(isopropoxymethyl)-2-oxoethyl]carbamate | NC([C@H](COC(C)C)NC(OCC1=CC=CC=C1)=O)=O | C14H20N2O4
